US06562811B1
A suspension of 3-hydroxypicolinonitrile (3.00 g, 25.0 mmol), which was prepared according to “Synthesis” 316 (1983) and “J. Org. Chem.” 48 1375 (1983), potassium carbonate (5.40 g, 39.1 mmol) and benzyl bromide (5.10 g, 29.8 mmol) in acetone (150 mL) was stirred at room temperature for 20 hrs. The reaction mixture was filtrated and the filtrate was evaporated. The residue was purified by column chromatography on silica gel (ethyl acetate/n-hexane=1/3 to 1/2) followed by recrystallization from ethyl acetate/n-hexane=1/4 to give 3-benzyloxypicolinonitrile as a colorless solid (4.354 g, yield; 83%).

reactant | 3-hydroxypicolinonitrile | 25.0 mmol, 3.00 g | OC=1C(=NC=CC1)C#N | C6H4N2O
reactant | potassium carbonate | 39.1 mmol, 5.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 29.8 mmol, 5.10 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 3-benzyloxypicolinonitrile | 4.354 g, yield; 83% | C(C1=CC=CC=C1)OC=1C(=NC=CC1)C#N | C13H10N2O
